US05422358
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmetyl)-1-[3-(4-methoxyphenyl)propyl]piperidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine (0.26 g), 1-bromo-3-(4-methoxyphenyl)propane (0.23 g), anhydrous potassium carbonate (0.3 g) and acetonitrile (10 ml) was heated under reflux for 16 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×30 ml). The dichloromethane extracts were combined, dried (MgSO4) and concentrated in vacuo to give a solid which was recrystallised from ethanol to give the title compound, yield 0.19 g, m.p. 180°-182° C.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine | 0.26 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H22N2O
reactant | 1-bromo-3-(4-methoxyphenyl)propane | 0.23 g | BrCCCC1=CC=C(C=C1)OC | C10H13BrO
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmetyl)-1-[3-(4-methoxyphenyl)propyl]piperidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CCCC1=CC=C(C=C1)OC | C29H34N2O2
